US09034866B2
Into a 5000-mL 3-necked round-bottom flask was placed 5-bromo-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6-trien-8-one (223 g, 884.55 mmol, 1.00 equiv), PhCH3 (3500 mL), PCl5 (560 g, 2.69 mol, 3.00 equiv), and DIPEA (275 g, 3.00 equiv). The resulting solution was stirred at 85° C. for 5 h and quenched by the addition of 300 g of DIPEA. The solids were filtered out and the filtrate was concentrated under vacuum to afford 260 g (crude) of 5-bromo-8-chloro-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6,8-tetraene as a black oil.

reactant | 5-bromo-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6-trien-8-one | 884.55 mmol, 223 g, 1.00 equiv | BrC1=CC=C2C3CC(NC(C2=C1)=O)C3 | C11H10BrNO
reactant | PCl5 | 2.69 mol, 560 g, 3.00 equiv | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | DIPEA | 275 g, 3.00 equiv | CCN(C(C)C)C(C)C | C8H19N
solvent | PhCH3 | 3500 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-8-chloro-9-azatricyclo[8.1.1.0[2,7]]dodeca-2,4,6,8-tetraene | 260 g | BrC1=CC=C2C3CC(N=C(C2=C1)Cl)C3 | C11H9BrClN
